US05374604
To a solution of 2,6-dichloro-4-nitropyridine (3.8 g; 0.02 mol) in dimethylformamide (50 ml) cooled with an ice-bath was sodium thiomethoxide (1.4 g; 0.02 mol) slowly added. After stirring for 3 hours, the reaction mixture was quenched with water (300 ml) and extracted 3 times each with a hexane/ethyl acetate mixture (100 ml; 1/1). The combined extracts were dried with anhydrous magnesium sulphate and the solvent was removed in vacuo. Purification by silica gel flash column chromatography afforded 2,6-dichloro-4-methylthiopyridine (2.9 g; 74%) as a colorless oil.

reactant | 2,6-dichloro-4-nitropyridine | 0.02 mol, 3.8 g | ClC1=NC(=CC(=C1)[N+](=O)[O-])Cl | C5H2Cl2N2O2
reactant | sodium thiomethoxide | 0.02 mol, 1.4 g | C[S-].[Na+]
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 2,6-dichloro-4-methylthiopyridine | 2.9 g, 74% | ClC1=NC(=CC(=C1)SC)Cl | C6H5Cl2NS
